US08278482B2
1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-1-methylpyrrolidinium iodide
Benzyl 2-methyl-4-(pyrrolidin-1-yl)butan-2-ylcarbamate (4.81 g, 16.6 mmol) was placed into a 48 mL pressure vessel. Methyl iodide (10 mL, 10 equiv, 0.16 mol) was added to the reaction in one portion. No heat was evolved during addition, absolute ethanol (5 mL) was added to the vessel then it was sealed. The reaction was left to stir at 50° C. for 16 h. The blood red solution was concentrated to a dark red oil. The crude product was dissolved into a small amount of water and filtered through a 0.45 micron PTFE frit, then this solution was purified on a Shimadzu Prep-LC utilizing water/acetonitrile and 0.05% acetic acid as modifier. Fractions were collected monitoring UV absorbance at 215 nm. The fractions were pooled and lyophilized to give a colorless oil (5.24 g, 73.2%). 1H NMR (CDCl3, 400 MHz): δ 1.29 (s, 6H), 2.02-2.25 (m, 6H), 2.88 (s, 3H), 3.15-3.30 (m, 4H), 3.32-3.45 (m, 2H), 5.08 (s, 2H), 7.38-7.50 (m, 5H). LRMS (ESI+) for C18H29N2O2+ (305.2); Found: 305 (M+).

reactant | Benzyl 2-methyl-4-(pyrrolidin-1-yl)butan-2-ylcarbamate | 16.6 mmol, 4.81 g | CC(C)(CCN1CCCC1)NC(OCC1=CC=CC=C1)=O | C17H26N2O2
reactant | Methyl iodide | 0.16 mol, 10 mL, 10 equiv | CI | CH3I
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | 1-(3-(Benzyloxycarbonylamino)-3-methylbutyl)-1-methylpyrrolidinium iodide | 5.24 g, 73.2% | [I-].C(C1=CC=CC=C1)OC(=O)NC(CC[N+]1(CCCC1)C)(C)C | InChI=1S/C18H28N2O2.HI/c1-18(2,11-14-20(3)12-7-8-13-20)19-17(21)22-15-16-9-5-4-6-10-16;/h4-6,9-10H,7-8,11-15H2,1-3H3;1H
